US07737166B2
6-(Bromoacetyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-170)
6-(1-Ethoxyvinyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-169) (0.51 g, 1.76 mmol) was dissolved in tetrahydrofuran (10 ml), then water (1.0 ml), N-bromosuccinimide (0.30 g, 1.69 g) were added. After stirring at room temperature for 30 minutes, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane to dichloromethane:methanol=100:1) to obtain a pale brown solid (0.60 g, 100%).

reactant | 6-(1-Ethoxyvinyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | C(C)OC(=C)C=1C(=C2C(N=C(O2)N(C)C)=C(C1C)C#N)F | C15H16FN3O2
reactant | water | 1.0 ml | O | H2O
reactant | N-bromosuccinimide | 0.30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-(Bromoacetyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.60 g, 100% | BrCC(=O)C=1C(=C2C(N=C(O2)N(C)C)=C(C1C)C#N)F | C13H11BrFN3O2
